data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C)[C:22](=[O:23])C1=C(C(=C(C=C1OC)OC)OC)OC(=O)CCC(C)C(C)OC.C[O:10][Na]>>[H:20][O+:10](C)[Na].C[CH:21]=[C:22](C1=C(C(=C(C=C1OC)OC)OC)OC(=O)CCC(C)C(C)OC)[O-:23] 10=20;20,21=21,22;22,23=23
[H:20][Cl:21].C1=CC(=CC(=C1)CC(=[O:10])O)Br.CO>>[H:20][O+:10]=C(CC1=CC=CC(=C1)Br)O.[Cl-:21].CO 10=20;20,21=21
[H:20][N+:21](=C(C)CCC(=O)OCC)CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[N:21]=C(C)CCC(=O)OCC 10=20;20,21=21
C[C:20](C)([CH-:10]C#N)[OH:21]>>C[C:20](=[CH:10]C#N)C.[OH-:21] 10=20;20,21=21
CCC[O:21][CH:20](C)[O-:10]>>CCC[O-:21].C[CH:20]=[O:10] 10=20;20,21=21
C[Mg:20]Br.C[P:10](Cl)Cl>>C[Mg-:20]([P+:10](C)(Cl)Cl)Br 10=20,
CCCCCCCC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:10])[Cl:21].CC1(OC(=O)CC(=O)O1)C.CN(C)C1=CC=NC=C1>>CCCCCCCC[C:20](=[O:10])[N+]1=CC=C(C=C1)N(C)C.[Cl-:21].CC1(OC(=O)CC(=O)O1)C.CN(C)C1=CC=NC=C1 10=20;20,21=21
C1=CC2=C(C=C1)[CH:10]=[C:11](C=C2)Br.[Br:20][Br:21]>>C1=CC2=C(C=C1)[CH:10]([C+:11](C=C2)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC(C)[O+:21]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)C[CH:11]=[CH2:10].C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C)[O:21][CH:20](CCC1=CC=CC=C1)[CH2:10][CH+:11]C[Si](C)(C)C.C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21
[H:20][C:21]1(CC2(CC(=O)[N+:25](=[C:24]2[CH:23]=[CH:22]1)CCC3=CC(=C(C=C3)OC)OC)C(=O)OC)OC(C)(C)O.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.CC(C)(O)O[C:21]1=[CH:22][CH:23]=[C:24]2C(C1)(CC(=O)[N:25]2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC 10=20;24,25=25;20,21=21,22;22,23=23,24
CC(=O)C[C:20](C)([NH+:21]1CCCC1)[OH:10]>>C[C:20](=[OH+:10])CC(=O)C.C1CC[NH:21]C1 10=20;20,21=21
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C4=C(C=C(C=C4)Br)Cl.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=C(C=C1Br)Cl)[CH2:20][Br:10].C(Br)(Br)Br 10=20;20,21=21,22
CC(C)[C:11](=[C:10](C)C)[O-:12].[Br:20][Br:21]>>CC(C)[C:11](=[O:12])[C:10](C)(C)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)C(C)(CCC(=O)OCC)OCC.OS(=O)(=O)[O-:10]>>CCOC(=O)CCC(C)(OCC)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(=O)N1CCC(CC1)(N2CCCC2)[OH:10]>>[H:20][OH+:10]C1(CCN(CC1)C(=O)C)N2CCCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[CH:10]=[C:11](C)[O-:12].C[CH:20](C)[Br:21]>>C[CH:20](C)[CH:10](C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
C#CCC1=C(C=CC=C1)[N:10]=[N:20][OH2+:21]>>C#CCC1=C(C=CC=C1)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][O+:21](COC)C(CCOCC1=CC=CC=C1)CC2=C(C3=CC=CC(=C3C(=C2)OC)OC)OC.[B-]([O:10]C)(F)(F)F.CCOCC>>[H:20][O+:10]([B-](F)(F)F)C.COC[O:21]C(CCOCC1=CC=CC=C1)CC2=C(C3=CC=CC(=C3C(=C2)OC)OC)OC.CCOCC 10=20;20,21=21
CO[C:11]1=[CH:10]C=CC=C1Br.[Br:20][Br:21]>>CO[C+:11]1[CH:10](C=CC=C1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:10][BH3-:11].C[CH:20]=[O:21]>>[H:10][CH:20](C)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CO[PH+:22]([O:21][CH3:20])Cl.[Cl-:10]>>CO[PH:22](=[O:21])Cl.[CH3:20][Cl:10] 10=20;20,21=21,22
CCO[C:20](=[O:21])C1(CCC(C(C1C[C:11](=[CH2:10])[O-:12])(C(=O)OCC)C(=O)OCC)C)C#N.CO>>CCOC(=O)C1(C(CCC2(C1C[C:11](=[O:12])[CH2:10][C:20]2([O-:21])OCC)C#N)C)C(=O)OCC.CO 10,11=10,20;12=11;20,21=21
C[OH:10].C1=CC=C(C=C1)[C:20](=[O:21])Cl>>C[OH+:10][C:20](C1=CC=CC=C1)([O-:21])Cl 10=20;20,21=21
C1OC2=CC(=C(C=C2O1)I)C[C:20](=[O:21])N.[OH-:10]>>C1OC2=CC(=C(C=C2O1)I)C[C:20](N)([OH:10])[O-:21] 10=20;20,21=21
[H:20][C:21](C)(C)[C+:22](C)CC.CC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)C.CC[C:22](=[C:21](C)C)C 10=20;20,21=21,22
CCO[C:20](=[O:21])[CH:10](C)[C:11](=O)[O-:12].CCC#N.[Na+]>>CCO[C:20](=[CH:10]C)[O-:21].[C:11](=O)=[O:12].CCC#N.[Na+] 10,11=10,20;20,21=21;12=11
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC(C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)C5(C(OC6(O5)CCCC6)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[O:11]C(=O)C.CC(=O)[O-].C1=CC=[NH+]C=C1.C1=CC=NC=C1>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC(C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)C5(C(OC6(O5)CCCC6)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.CC(=O)[O-].C1=CC=[NH+]C=C1.C1=CC=NC=C1 10,11=11
CC(C)(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>CC(C)(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][CH:21]1CC(CC[C:22]1=[N+:23]2CCN(CC2)C3=C(C=C(C=C3)F)OC(C)C)NC(=O)OC(C)(C)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(C)OC1=C(C=CC(=C1)F)N2CC[N:23](CC2)[C:22]3=[CH:21]CC(CC3)NC(=O)OC(C)(C)C.O 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C.CC12CC[C:11](=[CH:10]C1(C(=C=C)CC2)C)[OH:12]>>[H:20][CH:10]1[C:11](=[OH+:12])CCC2(C1(C(=C=C)CC2)C)C.CS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C(O[CH+:22]1)[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]OC(=C1)[N+](=O)[O-] 10=20;20,21=21,22
C1=CC=C(C=C1)OCC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC=C(C=C1)OCC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
